US05646173
1.0 g g of N-[8-chloro-2-(4,5-dihydro-1H-benz[g]indol-1-yl)ethyl]-acetamide was heated to 140° for 24 hours under argon in 7.5 ml of ethylene glycol/water 2:1 in the presence of 0.50 g of potassium hydroxide. The mixture was left to cool and was poured into 75 ml of ice-water. After the addition of 25 ml of saturated sodium chloride solution, the mixture was extracted three times with diethyl ether. The combined extracts were washed once with saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated. The crude product was dissolved in 20 ml of diethyl ether and added dropwise to a suspension of 406 mg of fumaric acid in 80 ml of diethyl ether. The solvent was removed in a vacuum and the residue was recrystallized from 90 ml of ethanol/ethyl acetate 5:4. 556 mg (45%) of 2-(8-chloro-4,5-dihydro-1H-benz[g]indol-1-yl)-ethylamine fumarate (1:1) with m.p. 179°-180° were obtained as white crystals.

reactant | N-[8-chloro-2-(4,5-dihydro-1H-benz[g]indol-1-yl)ethyl]-acetamide | ClC1=CC2=C(CCC=3C=CN(C23)CCNC(C)=O)C=C1 | C16H17ClN2O
reactant | potassium hydroxide | 0.50 g | [OH-].[K+]
reactant | sodium chloride | 25 ml | [Cl-].[Na+]
reactant | ethylene glycol water | 7.5 ml | C(CO)O.O
product | 2-(8-chloro-4,5-dihydro-1H-benz[g]indol-1-yl)-ethylamine fumarate | 556 mg, 45% | C(\C=C\C(=O)O)(=O)O.ClC1=CC2=C(CCC=3C=CN(C23)CCN)C=C1 | InChI=1S/C14H15ClN2.C4H4O4/c15-12-4-3-10-1-2-11-5-7-17(8-6-16)14(11)13(10)9-12;5-3(6)1-2-4(7)8/h3-5,7,9H,1-2,6,8,16H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
